US04183870
A mixture of 7-formyl-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane (3.88 g.) and 2-methylhexanoyl-methylenetriphenylphosphorane (6.0 g.) in dry tetrahydrofuran (30 ml.) was heated to reflux under nitrogen for 18 hours. The solvent was removed in vacuo and the residue triturated with petroleum ether (b.p. 60°-80° C.), allowed to stand at 0° C., filtered to remove triphenylphosphine oxide and the filtrate evaporated to give 6-(7-hydroxyheptyl)-7-(4-methyl-3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane (5.56 g), νmax 1620 cm-1, 1660 cm-1.

reactant | 7-formyl-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane | 3.88 g | C(=O)C1C(C2(OCCO2)CC1)CCCCCCCO | C15H26O4
reactant | 2-methylhexanoyl-methylenetriphenylphosphorane | 6.0 g | CC(C(=O)C1=C(C=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C)CCCC | C26H29OP
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-(7-hydroxyheptyl)-7-(4-methyl-3-oxooct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 5.56 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(C(CCCC)C)=O | C23H40O4
